US08222249B2
A mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonic acid salt (1.25 g, 3.39 mmol) and CDI (0.61 g, 3.73 mmol) in DMF (10 mL) was stirred at RT overnight. 4-Amino-piperidine-1-carboxylic acid tert-butyl ester (0.68 g, 3.39 mmol) was then added and the mixture was stirred overnight. The mixture was purified by preparative HPLC to give 4-{3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-ureido}-piperidine-1-carboxylic acid tert-butyl ester as an off-white solid (0.46 g, 27% yield). The product was used in the next step without further purification. HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 ml/min, 240 nm, 30/70 CH3CN0.1% H3PO4, 4.35 min (99.4%).

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonic acid salt | 3.39 mmol, 1.25 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | CDI | 3.73 mmol, 0.61 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-Amino-piperidine-1-carboxylic acid tert-butyl ester | 3.39 mmol, 0.68 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-{3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-ureido}-piperidine-1-carboxylic acid tert-butyl ester | 0.46 g, 27% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C25H33N5O6
